US05703240
5-(1-Cyclopropylmethyl-1H-tetrazol-5-yl)-2-methoxy-benzaldehyde
From a mixture of 5-bromo-1-cyclopropylmethyl-1H-tetrazole with 5-bromo-2-cyclopropyl-2H-tetrazole (1.91 g) and 3-formyl-4-methoxy-phenyl-boronic acid (1.86 g) to give the title compound (657 mg) as a yellow solid. NMR (CDCl3) δ 0.45 (2H,m); 0.70 (2H,m); 1.3 (1H,m); 4.05 (3H,s); 4.3(2H,d); 7.2 (1H,d); 8.0 (1H,m); 8.15 (1H,d); 10.55 (1H,s).

reactant | 5-bromo-1-cyclopropylmethyl-1H-tetrazole | BrC1=NN=NN1CC1CC1 | C5H7BrN4
reactant | 5-bromo-2-cyclopropyl-2H-tetrazole | 1.91 g | BrC=1N=NN(N1)C1CC1 | C4H5BrN4
reactant | 3-formyl-4-methoxy-phenyl-boronic acid | 1.86 g | C(=O)C=1C=C(C=CC1OC)B(O)O | C8H9BO4
product | 5-(1-Cyclopropylmethyl-1H-tetrazol-5-yl)-2-methoxy-benzaldehyde | 657 mg | C1(CC1)CN1N=NN=C1C=1C=CC(=C(C=O)C1)OC | C13H14N4O2
